US04409238
In 240 g of methylene chloride were dissolved 12.5 g of carbon tetrabromide, followed by the addition of 19.8 g of triphenylphosphine. The mixture was thoroughly stirred. To this mixed solution were added 5.0 g of the ethyl 2-isopropyl-3-formyl-propionate prepared above and the mixture was stirred at room temperature overnight. Thereafter, the low-boiling fraction was distilled off under reduced pressure and the residue was stirred well with diethyl ether and water. The diethyl ether layer was taken and distilled under reduced pressure to remove the low-boiling fraction. To the residue was added petroleum ether and, after thorough stirring, the petroleum ether solution was taken and further distilled under reduced pressure to remove the low-boiling fraction. The resultant oily residue was purified by distillation under reduced pressure. By the above procedure there were obtained 4.6 g of ethyl α-(3,3-dibromoallyl)isovalerate [yield: 48% based on ethyl 2-isopropyl-3-formyl-propionate].

reactant | carbon tetrabromide | 12.5 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 19.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl 2-isopropyl-3-formyl-propionate | 5.0 g | C(C)(C)C(C(=O)OCC)CC=O | C9H16O3
solvent | methylene chloride | 240 g | C(Cl)Cl | CH2Cl2
product | ethyl α-(3,3-dibromoallyl)isovalerate | 4.6 g, yield: 48% | BrC(=CCC(C(=O)OCC)C(C)C)Br | C10H16Br2O2
